US04352795
A solution of one g of 7-β-D-arabinofuranosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine, 4.3 ml of glacial acetic acid, 50 ml water, and 2.67 g of sodium nitrite is heated at 75° C. for one hour, cooled, and treated with 2.1 g of urea. The solution is evaporated in vacuo and the resulting residue is dissolved in water and treated with 15 ml of wet Dowex 50×8 (in hydrogen form). The resin is filtered and washed with water. The filtrate is treated with charcoal, filtered and evaporated in vacuo. The residue is recrystallized from water to provide 0.75 g of pure 7-β-D-arabinofuranosyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one.

reactant | 7-β-D-arabinofuranosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C=CC2=C1N=CN=C2N | C11H14N4O4
reactant | acetic acid | 4.3 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 2.67 g | N(=O)[O-].[Na+]
reactant | urea | 2.1 g | NC(=O)N | CH4N2O
solvent | water | 50 ml | O | H2O
product | 7-β-D-arabinofuranosyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 0.75 g | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C=CC2=C1N=CNC2=O | C11H13N3O5
